US05492918
N-(1-Benzyl-4-piperidyl)-N'-phenylurea
1.14 ml (10.5 mmol) of phenyl isocyanate are slowly added dropwise to a solution of 1.90 g (10.0 mmol) of 4-amino-1-benzylpiperidine and 1.46 ml (10.5 mmol) of triethylamine in 40 ml of dichloromethane. The reaction mixture may subsequently be stirred at room temperature for 1 h, and is then evaporated to dryness in vacuo. The residue is mixed with 50 ml of diethyl ether, stirred well, separated off by filtration, washed with 5 ml of diethyl ether and dried in a high vacuum. 2.62 g (85%) of the title compound are obtained as colourless crystals.

reactant | phenyl isocyanate | 10.5 mmol, 1.14 ml | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | 4-amino-1-benzylpiperidine | 10.0 mmol, 1.90 g | NC1CCN(CC1)CC1=CC=CC=C1 | C12H18N2
reactant | triethylamine | 10.5 mmol, 1.46 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
product | N-(1-Benzyl-4-piperidyl)-N'-phenylurea | 2.62 g, 85% | C(C1=CC=CC=C1)N1CCC(CC1)NC(=O)NC1=CC=CC=C1 | C19H23N3O
